US04259352
The 4-(substituted-amino)phenylalkenoic acids may be prepared by condensation of the appropriate aldehydes or by dehydration of the corresponding substituted-phenylhydroxyalkanoic acids. For example, ethyl 5-[4-(cyclopentylmethylamino)phenyl]-2,4-pentadienoate is obtained by the Wittig reaction of 4-(cyclopentylmethylamino)benzaldehyde with the Wittig reagent, triethyl 4-phosphonocrotonate. Alternatively, these alkanoic acids are obtained by heating 4-[N-(10-cyclopentyldecyl-N-methylamino]benzaldehyde and the like with the sodium salt of the carbonion of ethyl acetate or with a mixture of ethyl acetate, acetic anhydride and potassium acetate. The second method is illustrated by dehydration of ethyl 3-[(4-cyclohexylmethylamino)phenyl]-3-hydroxypropionate to yield ethyl 4-cyclohexylmethylaminocinnamate.

reactant | sodium | [Na] | Na
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | ethyl 3-[(4-cyclohexylmethylamino)phenyl]-3-hydroxypropionate | C1CCC(CC1)CNC1=C(C=CC=C1)C(CC(=O)OCC)O | C18H27NO3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 4-cyclohexylmethylaminocinnamate | C1(CCCCC1)CNC1=CC=C(C=CC(=O)OCC)C=C1 | C18H25NO2
